US08633237B2
a) (S)-2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylic Acid
A mixture of (S)-methyl 2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate (2.320 mmol, 690 mg) and lithium hydroxide (5.10 mmol, 122 mg) in H2O (25 mL) and MeOH (25 mL) was stirred at room temp for 2 days. EtOAc was added followed by 2M aq HCl and the reaction mixture extracted with EtOAc (×3). The EtOAc layers were combined and washed with brine, dried over MgSO4, filtered and the solvent removed in vacuo to give desired product as a white solid (514 mg, 78%). MS (ESI): m/z [M−H]− 282.2

reactant | (S)-methyl 2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | 2.320 mmol, 690 mg | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)C(=O)OC | C14H19NO4S
reactant | lithium hydroxide | 5.10 mmol, 122 mg | [OH-].[Li+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 2M | Cl | ClH
solvent | H2O | 25 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
product | (S)-2-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylic Acid | 514 mg, 78% | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)C(=O)O | C13H17NO4S
